US05284842
b) 3-tert.-Butoxycarbonylaminomethyl-3-hydroxypyrrolidine
18.7 g (61 mmol) of 1-benzyl-3-tert.-butoxycarbonylaminomethyl-3-hydroxypyrrolidine are dissolved in 120 ml of methanol and hydrogenated on 3 g of 5% strength Pd/active carbon at 90° C. and 100 bar. The catalyst is filtered off, the filtrate is concentrated and the residue is recrystallized from ethyl acetate.

reactant | 1-benzyl-3-tert.-butoxycarbonylaminomethyl-3-hydroxypyrrolidine | 61 mmol, 18.7 g | C(C1=CC=CC=C1)N1CC(CC1)(O)CNC(=O)OC(C)(C)C | C17H26N2O3
solvent | methanol | 120 ml | CO | CH4O
solvent | Pd | [Pd] | Pd
product | 3-tert.-Butoxycarbonylaminomethyl-3-hydroxypyrrolidine | C(C)(C)(C)OC(=O)NCC1(CNCC1)O | C10H20N2O3
